US04127720
B. Ethyl 7-Methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate
A mixture A mixture of diethyl 4-methoxyisoquinolylaminomethylenemalonate (460 mg., 1.33 mmoles) and diphenyl ether (4.6 ml.) was placed in an oil bath at 210°, the temperature of which, was increased to 260° during 5 minutes. Dilution of the solution with Skellysolve B caused the product (315 mgs., 79% yield), m.p. 190°-193°, to separate. Recrystallization from ethyl acetate raised the m.p. to 202°-204°.

reactant | diethyl 4-methoxyisoquinolylaminomethylenemalonate | 1.33 mmoles, 460 mg | COC1=CN=C(C2=CC=CC=C12)NC=C(C(=O)OCC)C(=O)OCC | C18H20N2O5
reactant | diphenyl ether | 4.6 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | Skellysolve B | CCCCCC | C6H14
product | Ethyl 7-Methoxy-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 79% yield | COC1=CN2C(C3=CC=CC=C13)=NC=C(C2=O)C(=O)OCC | C16H14N2O4
